US04950666
With cooling and stirring, 4.0 ml (0.099 mole) of methanol was added to 25.6 grams (0.090 mole) of 11-bromoundecanoic acid chloride. Triethylamine, 13.8 ml (0.099 mole) was then added dropwise. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it stirred for 16 hours. The reaction mixture was diluted with diethyl ether and was washed in turn with water, an aqueous solution saturated with sodium bicarbonate, water, and an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure yielding 23.9 grams of methyl 11-bromoundecanoate. The nmr spectrum was consistent with the proposed structure.

reactant | methanol | 0.099 mole, 4.0 ml | CO | CH4O
reactant | 11-bromoundecanoic acid chloride | 0.090 mole, 25.6 grams | BrCCCCCCCCCCC(=O)Cl | C11H20BrClO
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
product | methyl 11-bromoundecanoate | 23.9 grams | BrCCCCCCCCCCC(=O)OC | C12H23BrO2
